US07968570B2
A mixture of 4-trifluoromethoxy-benzyl amine (0.586 mL, 3.84 mmol), 2-bromomethyl-4-nitro-6-iodo-benzoic acid methyl ester (1.18 g, 2.95 mmol), and K2CO3 (0.815 g, 0.815 mmol) in toluene (7 mL) was heated with stirring at 100° C. for 2 h. The resulting mixture was filtered and concentrated. Silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-nitro-7-iodo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.144 g, 10%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.31 (s, 2H), 4.82 (s, 2H), 7.19 (d, 2H), 7.38 (d, 2H), 8.24 (s, 1H), 8.78 (s, 1H). GC-MS: m/z 478 (M)+, 409 (M−69)+.

reactant | 4-trifluoromethoxy-benzyl amine | 3.84 mmol, 0.586 mL | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
reactant | 2-bromomethyl-4-nitro-6-iodo-benzoic acid methyl ester | 2.95 mmol, 1.18 g | COC(C1=C(C=C(C=C1I)[N+](=O)[O-])CBr)=O | C9H7BrINO4
reactant | K2CO3 | 0.815 mmol, 0.815 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | 5-nitro-7-iodo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.144 g, 10% | [N+](=O)([O-])C=1C=C2CN(C(C2=C(C1)I)=O)CC1=CC=C(C=C1)OC(F)(F)F | C16H10F3IN2O4
